US07767674B2
1-(5-tert-Butyl-2-ethyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-ylmethyl-phenyl)-urea Dihydrochloride
4-{4-[3-(5-tert-Butyl 2-ethyl-2H-pyrazol-3-yl)-ureido]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester (105 mg, 0.216 mmol) is dissolved in dichloromethane (3 mL) and a 4M solution of HCl in 1,4-dioxane (0.86 mL, 3.5 mmol) is added and the mixture stirred at room temperature for 2 hours. After removal of solvent, the residue is triturated with diethyl ether and air-dried to obtain the title compound (99 mg, 99% yield, ES+(m/z) 385 [M+H]).

reactant | 4-{4-[3-(5-tert-Butyl 2-ethyl-2H-pyrazol-3-yl)-ureido]-benzyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.216 mmol, 105 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)CC | C26H40N6O3
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 3.5 mmol, 0.86 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-2-ethyl-2H-pyrazol-3-yl)-3-(4-piperazin-1-ylmethyl-phenyl)-urea Dihydrochloride | 99 mg, 99% yield | Cl.Cl.C(C)(C)(C)C=1C=C(N(N1)CC)NC(=O)NC1=CC=C(C=C1)CN1CCNCC1 | InChI=1S/C21H32N6O.2ClH/c1-5-27-19(14-18(25-27)21(2,3)4)24-20(28)23-17-8-6-16(7-9-17)15-26-12-10-22-11-13-26;;/h6-9,14,22H,5,10-13,15H2,1-4H3,(H2,23,24,28);2*1H
